US08420655B2
To a vial is added 5-bromo-1-tert-butyl-2-[2-(2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole (158 mg, 0.4 mmol) in DMF (5 mL), followed by the addition of iodomethane (114 mg, 0.8 mmol) and K2CO3 (110 mg, 0.8 mmol). The reaction mixture is stirred at room temperature for 0.5 hour. The reaction mixture is diluted with EtOAc, washed with water then, brine, dried with Na2SO4, filtered and concentrated. The residue is loaded to a silica gel column. The column is eluted with 0-3% MeOH/CH2Cl2. The product fractions are collected and is concentrated to afford 5-bromo-1-tert-butyl-2-[2-(2-methyl-2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole (62 mg, 38%). LCMS (ESMS): m/z 411.59, 413.47 (M++1)

reactant | 5-bromo-1-tert-butyl-2-[2-(2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole | 0.4 mmol, 158 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C=2N=NNN2)C(C)(C)C)C=C1 | C18H17BrN6
reactant | iodomethane | 0.8 mmol, 114 mg | IC | CH3I
reactant | K2CO3 | 0.8 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-1-tert-butyl-2-[2-(2-methyl-2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole | 62 mg, 38% | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C=2N=NN(N2)C)C(C)(C)C)C=C1 | C19H19BrN6
